US07250440B2
5-Bromo-1-(4-methoxymethyloxyphenyl)-2-methyl-1H-indole
5-Bromo-2-methylindole (5.59 g, 23.8 mmol) and 4-methoxymethyloxy iodobenzene (7.47 g, 23.8 mmol), were reacted according to the procedure used in Example 1a above to afford a colorless liquid (8.4%): 1H NMR (DMSO-d6): δ 2.23 (3H, s), 3.43 (2H, s), 5.26 (2H, s), 6.39 (1H, s), 6.94 (1H, d, J=8.7 Hz), 7.01 (1H, dd, J=2.2 Hz, J=8.6 Hz), 7.20 (2H, d, J=8.6 Hz), 7.34 (2H, d, J=8.6 Hz), 7.53 (1H, d, J=2.2 Hz); MS m/z (M+H)+ 346/348 (1 Br). Anal. for C17H16BrN02: Calc'd: C, 58.98; H, 4.66; N, 4.05. Found: C, 58.72; H, 4.53; N, 4.17.

reactant | 5-Bromo-2-methylindole | 23.8 mmol, 5.59 g | BrC=1C=C2C=C(NC2=CC1)C | C9H8BrN
reactant | 4-methoxymethyloxy iodobenzene | 23.8 mmol, 7.47 g | COCOC1=CC=C(C=C1)I | C8H9IO2
product | 5-Bromo-1-(4-methoxymethyloxyphenyl)-2-methyl-1H-indole | 8.4% | BrC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)OCOC)C | C17H16BrNO2
